US05284863
Preparation of 3-Bromo-2-(p-chlorophenyl)-5-[(trifluoromethyl)sulfinyl]pyrrole
A solution of 3-bromo-2-(p-chlorophenyl)-5-[(trifluoromethyl)thio]pyrrole (0.65 g, 0.00182 mol) in chloroform is cooled with an ice-water bath, treated with a solution of 3-chloroperoxybenzoic acid (0.52 g, 60% pure, 0.00182 mol) in chloroform, stirred for two hours, treated with saturated sodium metabisulfite solution, diluted with methylene chloride, washed with saturated sodium hydrogen carbonate solution and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to obtain a white solid. Flash chromatography of the solid using silica gel and a 1:10 ethyl acetate/hexanes solution gives the title product as a white solid (0.34 g, mp 177°-179° C.) which is identified by 1HNMR spectral analysis.

reactant | 3-bromo-2-(p-chlorophenyl)-5-[(trifluoromethyl)thio]pyrrole | 0.00182 mol, 0.65 g | BrC1=C(NC(=C1)SC(F)(F)F)C1=CC=C(C=C1)Cl | C11H6BrClF3NS
reactant | 3-chloroperoxybenzoic acid | 0.00182 mol, 0.52 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | sodium metabisulfite | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-Bromo-2-(p-chlorophenyl)-5-[(trifluoromethyl)sulfinyl]pyrrole | 0.34 g | BrC1=C(NC(=C1)S(=O)C(F)(F)F)C1=CC=C(C=C1)Cl | C11H6BrClF3NOS
